US09255096B1
1-tert-butyl 3-ethyl 4-oxopiperidine-1,3-dicarboxylate
To a solution of ethyl 4-oxopiperidine-3-carboxylate (180.0 g, 0.87 mol, 1.0 eq.) in DCM (2.7 L) was added Et3N (352.14 g, 3.48 mol, 4.0 eq.) dropwise at 15° C. and stirred for 30 min followed by addition of (BOC)2O (210.0 g, 0.96 mol, 1.10 eq.) maintaining the temperature below 10° C. The resulted mixture was stirred at rt overnight, and concentrated to give a crude product that was stirred with hexane (3.5 L) for 1 h and filtered. The filtered cake was washed with hexanes. The combined organic phase was concentrated to furnish the title compound (226.0 g, 0.83 mol, 95.4%).

reactant | ethyl 4-oxopiperidine-3-carboxylate | 0.87 mol, 180.0 g, 1.0 eq. | O=C1C(CNCC1)C(=O)OCC | C8H13NO3
reactant | Et3N | 3.48 mol, 352.14 g, 4.0 eq. | CCN(CC)CC | C6H15N
reactant | (BOC)2O | 0.96 mol, 210.0 g, 1.10 eq. | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | hexane | 3.5 L | CCCCCC | C6H14
solvent | DCM | 2.7 L | C(Cl)Cl | CH2Cl2
product | 1-tert-butyl 3-ethyl 4-oxopiperidine-1,3-dicarboxylate | 0.83 mol, 226.0 g, 95.4% | O=C1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C13H21NO5
